US08247429B2
methyl 3-(acetylamino)-2-amino-6-(3-methoxy-3-oxopropyl)benzoate
To a solution of methyl 3-(acetylamino)-6-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-nitrobenzoate (686 mg, 2.13 mmol) in methanol (20 mL) was added palladium-carbon powder (20 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 5 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (516 mg, yield 82%).

reactant | methyl 3-(acetylamino)-6-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]-2-nitrobenzoate | 2.13 mmol, 686 mg | C(C)(=O)NC=1C(=C(C(=O)OC)C(=CC1)\C=C\C(=O)OC)[N+](=O)[O-] | C14H14N2O7
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | methyl 3-(acetylamino)-2-amino-6-(3-methoxy-3-oxopropyl)benzoate | 516 mg, yield 82% | C(C)(=O)NC=1C(=C(C(=O)OC)C(=CC1)CCC(=O)OC)N | C14H18N2O5
